US04770503
A mixture of 2.61 g of p-[trans-4-(5-hexenyl)cyclohexyl]benzonitrile and 20 g of potassium hydroxide in 200 ml of diethylene glycol was boiled at 180° C. for 1 hour while gassing with argon in a round flask equipped with a magnetic stirrer and a reflux condenser. After cooling the brown reaction mixture was made acid with 35 ml of 36 percent hydrochloric acid and partitioned between 100 ml of methylene chloride and 100 ml of water. The aqueous phase was back-extracted three times with 100 ml of methylene chloride each time. The organic phases were washed twice with 100 ml of water each time and dried over magnesium sulphate and active charcoal. After separating the solvent in a rotary evaporator there were obtained 2.93 g (104%) of p-[trans-4-(5-hexenyl)cyclohexyl]benzoic acid as brownish, not quite pure crystals; Rf value 0.38 (ethyl acetate/petroleum ether vol. 3:7).

reactant | p-[trans-4-(5-hexenyl)cyclohexyl]benzonitrile | 2.61 g | C(CCCC=C)[C@@H]1CC[C@H](CC1)C1=CC=C(C#N)C=C1 | C19H25N
reactant | potassium hydroxide | 20 g | [OH-].[K+]
reactant | hydrochloric acid | 35 ml | Cl | ClH
reactant | diethylene glycol | 200 ml | C(COCCO)O | C4H10O3
product | p-[trans-4-(5-hexenyl)cyclohexyl]benzoic acid | 2.93 g, 104% | C(CCCC=C)[C@@H]1CC[C@H](CC1)C1=CC=C(C(=O)O)C=C1 | C19H26O2
